US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (204 mg, 0.785 mmol), N-(3-Aminomethyl-phenyl)-N′,N′-dimethyl-ethane-1,2-diamine hydrochloride (198 mg, 0.86 mmol), Pd2(dba)3 (72 mg, 0.0785 mmol), rac-BINAP (162 mg, 0.260 mmol) and NaOtBu (266 mg, 2.77 mmol) in DMA (6 mL) was heated at 85° C. for 3 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Preparatory HPLC afforded 4-chloro-6-[3-(2-dimethylamino-ethylamino)-benzylamino]-2H-phthalazin-1-one hydroformate (81 mg) as a yellow solid. 1H (400 MHz, d6-DMSO) δ: 1.95 (s, 6H), 2.40 (m, 1H), 2.46 (m, 1H), 2.87 (m, 2H), 4.10 (d, 2H), 5.20 (bs, 1H), 6.26 (dd, 1H), 6.34 (d, 1H), 6.37 (s, 1H), 6.62 (s, 1H), 6.82 (t, 1H), 6.93 (dd, 1H), 7.40 (t, 1H), 7.70 (d, 1H), 7.95 (s, 1H), 12.12 (s, 1H) ppm; m/z (M+1) 372.04.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.785 mmol, 204 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | N-(3-Aminomethyl-phenyl)-N′,N′-dimethyl-ethane-1,2-diamine hydrochloride | 0.86 mmol, 198 mg | Cl.NCC=1C=C(C=CC1)NCCN(C)C
reactant | rac-BINAP | 0.260 mmol, 162 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.77 mmol, 266 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0785 mmol, 72 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[3-(2-dimethylamino-ethylamino)-benzylamino]-2H-phthalazin-1-one | 81 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)NCCN(C)C)=O | C19H22ClN5O
